*
* Trace Elliot 15W output transformer, 8k primary, 16/8 ohm sec.
* Part no. 73 TRAN 15W OP
*
* [1] Red   ---. ||
*              ) || .--- Green (16 ohm)  [4]
*              ) || (
*              ) || (
* [2] White ---. || .--- Yellow (8 ohm)  [5]
*              ) || (
*              ) || (
*              ) || .--- Brown           [6]
* [3] Blue  ---. ||
*
.SUBCKT trace15 1 2 3 4 5 6
*
* Primary
*
Lleak1  1       20      2mH
Lpri1   20      21      150H
Rpri1   21      2       186
Cpri1   1       2       120p
Lleak2  2       22      2mH
Lpri2   22      23      150H
Rpri2   23      3       201
Cpri2   2       3       120p
*
* Secondary
*
Lleak3  5       24	10uH
Lsec1   24      25      0.6H
Rsec1   25      6       0.8
Lleak4  4	    27	10uH
Lsec2	  27      28	0.3H
Rsec2	  28	    5	      0.4

Kcoup   Lpri1 LPri2 Lsec1 Lsec2 1.0
.ENDS 
