*
* Trace Elliot 50W output transformer, part 73-TRAN-50WOP
*
* D.Munro 10/4/97
*
* Pin 1   anode'
*     2   HT
*     3   anode''
*
*     4,5 output 16 ohm
*
* Note that altough the transformer is tapped 4/8/16 ohms, only the
* 16 ohm output is modelled.
*
.SUBCKT trace50 1 2 3 4 5
L12	in1	in2	41.02m
C1_1	in2	2	-797.5p
Rdc1	in1	N61	60.55
Lmag	in1	2	99.45
Rcore	in1	2	2.458Meg
Rac1	N61	1	63.93
Lac1	N61	1	0.1083
L23	in2	in3	78.28m
C2_23	3	5	831.3p
C3_23	3	N43	503.0p
Efwd2	N82	3	in2	2	1.000
Vsens2	N82	N42	
Ffbk2	in2	2	Vsens2	1.000
C1_2	N82	3	251.9p
Rdc2	N42	N62	61.68
Rac2	N62	2	62.58
Lac2	N62	2	0.2074
Efwd3	N83	5	in3	2	0.1352
Vsens3	N83	N43	
Ffbk3	in3	2	Vsens3	0.1352
C1_3	N83	5	2.426p
Rdc3	N43	N63	0.8561
Rac3	N63	4	1.501
Lac3	N63	4	694.1u
.ENDS 
