Intusoft Vacuum Tube Models
Date: 2/98

Copyright © Intusoft 1998
Tel (310) 833-0710
Fax (310) 833-9658
e-mail:  info@intusoft.com
World Wide Web site: http://www.intusoft.com

These models are part of the ICAP/4Windows Deluxe package which currently
includes over 10,000 models and hundreds of different part types. With
regard to the number of part types, it is the largest library available
from ANY SPICE vendor!!

*************
* Tube Subcircuit Application Notes
* For more info see the Intusoft Newsletter #18 August 1990, Newsletter #34, Feb. 1994
* and Newsletter #35 April 1994. 
* 
*************

SPICE Simulation Models
These SPICE simulation models may be used and distributed freely, 
provided they are not altered in any way, resold, or included in 
any other package for resale. In addition, the Intusoft copyright
notice MUST be maintained and included with any model distribution.

As a service to our customers, we provide a free modeling service.  
If you are interested in obtaining additional models, please contact 
Intusoft technical support.

ICAP/4 Windows Demonstration Software
The demonstration version of ICAP/4 Windows including IsSpice4 may be 
downloaded from our Web site at no charge.  
Also available for download are additional models, product and 
ordering information, technical articles, and Intusoft Newsletters.

SpiceMod Modeling Software
SpiceMod is a CAE program that is used to create SPICE models from 
data sheet values.  SPICEMOD is particularly useful in the circuit 
design phase because it allows the designer to create SPICE models 
based on electrical specifications before an actual device is selected.
SpiceMod may be used to create models for diodes, Zener diodes, BJTs,
power BJTs, Darlington BJTs, JFETs, MOSFETs, power MOSFETs, IGBTs, 
SCRs, and TRIACS.

**********
Macromodels, simulation models, or other models provided by
Intusoft, directly or indirectly, are not warranted by
Intusoft as fully representing all of the specifications and
operating characteristics of the semiconductor product to
which the model relates. Moreover, these models are
furnished on an "as is" basis without support or warranty of
any kind, either expressed or implied, regarding the use
thereof and Intusoft specifically disclaims all implied
warranties of merchantability and fitness of the models for
any purpose. Intusoft does not assume any liability arising
out of the application or use of the models including
infringement of patents and copyrights nor does Intusoft
convey any license under its patents and copyrights or the
rights of others. Intusoft reserves the right to make
changes without notice to any model.

Although the use of macromodels can be a useful tool in evaluating
device performance in various applications, they cannot
model exact device performance under all conditions, nor are
they intended to replace breadboarding for final
verification.
**************************
* 
* Some Tube Models (TRIO1/PENT1/HEAT1) created by
* EXCEM For the Intusoft Newsletter
* 12, Chemin des Hauts de Clairefontaine
* 78580 MAULE
* FRANCE
* tel 33 (1) 34 75 13 65
* fax 33 (1) 34 75 13 66
* 
*  Advertising corner: EXCEM provides worldwide services in the fields of
*  Electronics R&D, with focus on RF, theoretical and practical EMC,
*  electronic simulations and DSP. We also represent INTUSOFT in France.
* 
*  Among other things we manufacture a high-voltage wide-band tube
*  amplifier for driving high impedance loads (e.g. short E-field antenna).
*
*******************
*SRC=12AU7A;12AU7A;Tubes;Complex;250V 3W Triode
*SYM=TRIODE1
.SUBCKT 12AU7A   1     2      3    4    5
*               Anode Grid Cathode  F    F'
* COPYRIGHT EXCEM, 1993
*
X1 1 2 3 10 TRIO1 {SFS=0.7 VBIG=-0.9 VBIA=-1.3 MU=17 RMU=0.5 VMU=-20 SFMU=1.6 
+ K=827E-6 RK=0.08 VK=-20 SFK=1.6 SIGMAG=0.05 ALPHAG=5.2 SFG=3.5}
*
X2 4 5 10 HEAT1 {INOM=0.15 VNOM=6.3 LAMBDA=1 RCOOL=3 TCTE=10 TNOM=1150 INIT=100 
+ W=2.045 ISAT=0.099}
*
C2 1 2 1.5P
C3 3 1 0.5P
C4 2 3 1.6P 
C5 3 4 4P
C6 3 5 4P
*
*INCLUDE VACUUMNL.LIB
.ENDS
*******************
*SRC=12AU7A2;12AU7A2;Tubes;Complex;Triode, No Heater
*SYM=TRIODE1
.SUBCKT 12AU7A2   1     2      3    4    5
*                Anode Grid Cathode  F    F'
* COPYRIGHT EXCEM, 1993 Triode without Heater Model
*
X1 1 2 3 10 TRIO1 {SFS=0.7 VBIG=-0.9 VBIA=-1.3 MU=17 RMU=0.5 VMU=-20 SFMU=1.6 
+ K=827E-6 RK=0.08 VK=-20 SFK=1.6 SIGMAG=0.05 ALPHAG=5.2 SFG=3.5}
*
RF 4 5 42
VH 10 0 99m
*
C2 1 2 1.5P
C3 3 1 0.5P
C4 2 3 1.6P 
C5 3 4 4P
C6 3 5 4P
*
*INCLUDE VACUUMNL.LIB
.ENDS
*******************
*SRC=EL9000;EL9000;Tubes;Complex;Pentode
*SYM=PENTODE1
.SUBCKT EL9000    1     2     3     4      5    6 
*               Anode Grid2 Grid1 Cathode  F    F'
* COPYRIGHT EXCEM, 1993
*
X1 1 2 3 4 10 PENT1 {SFS=0.7 VBIG=-0.9 VBIA=-1.3 MUG2=17 MUA=15000 RMU=0.5 
+ VMU=-20 SFMU=1.6 K=5.4E-3 RK=0.08 VK=-20 SFK=1.6 SIGMA1=0.05 
+ ALPHA1=5.2 SFG1=3.5 SIGMA2=0.12 ALPHA2=0.06 SFG2=2.3 VCCR=0.58 SFVC=0.33}
*
X2 5 6 10 HEAT1 {INOM=0.15 VNOM=6.3 LAMBDA=1 RCOOL=3 TCTE=10 TNOM=1150 INIT=100 
+ W=2.045 ISAT=0.690}
*
C2 1 2 1.5P
C3 3 1 0.5P
C4 2 3 1.6P 
C5 3 4 4P
C6 3 5 4P
*
*INCLUDE VACUUMNL.LIB
.ENDS
*******************
*SRC=EL9000_2;EL9000_2;Tubes;Complex;Pentode, No Heater
*SYM=PENTODE1
.SUBCKT EL9000_2    1     2     3     4      5    6 
*                 Anode Grid2 Grid1 Cathode  F    F'
* COPYRIGHT EXCEM, 1993
*
X1 1 2 3 4 10 PENT1 {SFS=0.7 VBIG=-0.9 VBIA=-1.3 MUG2=17 MUA=15000 RMU=0.5 
+ VMU=-20 SFMU=1.6 K=5.4E-3 RK=0.08 VK=-20 SFK=1.6 SIGMA1=0.05 
+ ALPHA1=5.2 SFG1=3.5 SIGMA2=0.12 ALPHA2=0.06 SFG2=2.3 VCCR=0.58 SFVC=0.33}
*
RF 5 6 42
VH 10 0 99m
*
C2 1 2 1.5P
C3 3 1 0.5P
C4 2 3 1.6P 
C5 3 4 4P
C6 3 5 4P
*
*INCLUDE VACUUMNL.LIB
.ENDS
*******************
*SRC=TRIODE;TRIO1;Tubes;Generic;Complex Triode
*SYM=TRIO1
.SUBCKT TRIO1    A  G  C  ISAT {SFS=??? VBIG=??? VBIA=??? MU=??? RMU=??? VMU=??? 
+ SFMU=??? K=??? RK=??? VK=??? SFK=??? SIGMAG=??? ALPHAG=??? SFG=???} 
* 
* COPYRIGHT EXCEM, 1993
*
* Forward and reverse conditions are treated in this triode model
* as well as saturation.
* The model describes only the static bahaviour of the triode, and
* neglects secondary emission (that would occur at high VG and low VA).
*
* THE TRIODE'S 14 PARAMETERS ARE:
*
*     SFS     shape factor of the saturation law.
*     VBIG    contact potential of the grid
*             (the voltage above which grid may current start to flow).
*     VBIA    contact potential of the anode.
*     MU      amplification factor at slighly negative grid voltage.
*     RMU     reduction factor for MU at very negative grid voltage.
*     VMU     grid voltage for mid-range MU (negative).
*     SFMU    shape factor for MU reduction law. 
*     K       perveance at slightly negative grid voltage.
*     RK      perveance reduction factor at very negative grid voltage.
*     VK      grid voltage for mid-range perveance (negative).
*     SFK     shape factor for perveance reduction law. 
*     SIGMAG  effective cross-section of the grid relative to the anode.
*     ALPHAG  grid current amplification factor.
*     SFG     shape factor of the grid current law.
*
B1 15 0 V = V(G) - V(C) < -1P ?
+ {K} * (1+{RK} * ((V(G) - V(C)) / {VK})^{SFK}) / (1 + ((V(G) - V(C)) / {VK})^{SFK}) : {K}
* V(15) is the effective perveance 
B2 16 0 V = V(G) - V(C) < -1P ? {MU} * (1 + {RMU} * ((V(G) - V(C)) / {VMU})^{SFMU}) / 
+ (1 + ((V(G) - V(C)) / {VMU})^{SFMU}) : {MU}
* V(16) is the effective MU
B4 9 0 V = V(G) - V(C) - {VBIG} + (V(A) - V(C) - {VBIA}) / (V(16) + 1U)
B6 10 0 V = V(9) > 0 ? V(15) * V(9)^1.5 / (V(ISAT) + 1P) : 0
B7 12 0 V = V(10) < {SFS} ? V(10) * (V(ISAT) + 1P) :
+ (V(ISAT) + 1P) * ({SFS} + (V(10) - {SFS}) * {1-SFS} / ({1 - 2 * SFS} + V(10)))
* B7 contains an arbitrary saturation law modeled by the shape factor SFS
* to match the available data. SFS should be between 0 and 1. The
* lower SFS the sloppier the saturation law.
*
B8 14 0 V = V(A) - V(C) > {VBIA + 0.1M} ? (V(A) - V(C) - {VBIA}) / {ALPHAG} : 2P
B9 28 0 V = V(G) - V(C) > {VBIG + 0.1M} ? V(14) > 1P ? 
+ ((V(G) - V(C) - {VBIG} + {SIGMAG^(1/SFG)} * V(14)) / (V(G) - V(C) - {VBIG} + V(14)))^{SFG} : 0
B10 8 0 V = V(G) - V(C) < 0 ? V(28) * (({VBIG+10U} + V(C) - V(G)) / {VBIG+10U}) : V(28)
B15 G C I = V(8) * V(12)
B17 A C I = (1 - V(8)) * V(12)
.ENDS
*******************
*SRC=PENTODE;PENT1;Tubes;Generic;Complex Pentode
*SYM=PENT1
.SUBCKT PENT1    A  G2  G1  C  ISAT {SFS=??? VBIG=??? VBIA=??? MUG2=??? MUA=??? RMU=??? VMU=??? SFMU=??? 
+ K=??? RK=??? VK=??? SFK=??? SIGMA1=??? ALPHA1=??? SFG1=??? SIGMA2=??? ALPHA2=??? SFG2=??? VCCR=??? SFVC=???}
* 
* COPYRIGHT EXCEM, 1993
*
* Forward and reverse conditions are treated in this model
* as well as saturation.
* The model describes only the static bahaviour of the pentode, and
* neglects secondary emission. It is assumed that G2 is always very
* positive with respect to the cathode.
*
*
* THE PENTODE'S 20 PARAMETERS ARE:
*
*     SFS     shape factor of the saturation law.
*     VBIG    contact potential of the grid G1
*             (the voltage above which grid current may start to flow).
*     VBIA    contact potential of the anode.
*     MUG2    amplification factor for G2 at slighly negative G1 voltage.
*     MUA     amplification factor for A at slightly negative G1 voltage.
*     RMU     reduction factor for MU at very negative G1 voltage.
*     VMU     grid voltage for mid-range MU (negative).
*     SFMU    shape factor for MU reduction law.
*     K       perveance at slightly negative G1 voltage.
*     RK      perveance reduction factor at very negative G1 voltage.
*     VK      grid voltage for mid-range perveance (negative).
*     SFK     shape factor for perveance reduction law. 
*     SIGMA1  effective cross-section of G1 relative to the anode and G2.
*     ALPHA1  grid G1 current amplification factor.
*     SFG1    shape factor of the grid G1 current law.
*     SIGMA2  effective cross-section of G2 relative to the anode.
*     ALPHA2  grid G2 current amplification factor.
*     SFG2    shape factor of the grid G2 current law.
*     VCCR    virtual cathode current ratio.
*     SFVC    shape factor of the virtual cathode current law.
*
*
B1 15 0 V = V(G1) - V(C) < -1U ?  {K} * (1 + {RK} * 
+ ((V(G1) - V(C)) / {VK})^{SFK}) / (1 + ((V(G1) - V(C)) / {VK})^{SFK}) : {K}
* V(15) is the effective perveance 
B2 16 0 V = V(G1) - V(C) < -1U ?  (1 + {RMU} * ((V(G1) - V(C)) / {VMU})^{SFMU}) / 
+ (1 + ((V(G1) - V(C)) / {VMU})^{SFMU}) : 1
* V(16) is the factor used to establish both effective MU coefficients
E1 17 0 16 0 {MUG2}
E2 18 0 16 0 {MUA}
* V(17) is the effective MUG2 and V(18) is the effective MUA
B4 9 0 V = V(G1) - V(C) - {VBIG} + (V(A) - V(C) - {VBIA}) / (V(18) + 1U) + 
+ (V(G2) - V(C)) / (V(17) + 1U)
B6 10 0 V = V(9) > 1P ? V(15) * V(9)^1.5 / (V(ISAT) + 1P) : 0
B7 12 0 V = V(10) < {SFS} ? V(10) * (V(ISAT) + 1P) :
+ (V(ISAT) + 1P) * ({SFS} + (V(10) - {SFS}) * {1-SFS} / ({1 - 2 * SFS} + V(10)))
* B7 contains an arbitrary saturation law modeled by the shape factor SFS
* to match the available (?) data. SFS should be between 0 and 1. The
* lower SFS the sloppier the saturation law.
*
B8 14 0 V = V(G2) - V(C) + {MUG2 / MUA} * (V(A) - V(C)) > 0.1M ?
+ V(G2) - V(C) + {MUG2 / MUA} * (V(A) - V(C)) / {ALPHA1} : 0.2M
B9 28 0 V = V(G1) - V(C) > {VBIG + 10U} ? V(14) > 0.1M ? 
+ ((V(G1) - V(C) - {VBIG} + {SIGMA1^(1/SFG1)} * 
+ V(14)) / (V(G1) - V(C) - {VBIG} + V(14)))^{SFG1} : 0
*
B10 8 0 V = V(G1) - V(C) < 0 ? V(28) * (({VBIG+10U} + V(C) - V(G1)) / {VBIG+10U}) : V(28) 
*
B11 21 0 V = V(A) - V(C) > {VBIA + 0.1M} ? (V(A) - V(C) - {VBIA}) / {ALPHA2} : 0.2M
B12 32 0 V = V(G2) - V(C) > {VBIG+10U} ? V(21) > 0.1M ? 
+ ((V(G2) - V(C) -{VBIG} + {SIGMA2^(1 / SFG2)} * 
+ V(21)) / (V(G2) - V(C) -{VBIG} + V(21)))^{SFG2} : 0
*
B13 22 0 V = V(G2) - V(C) < 0 ? V(32) * (({VBIG+10U} + V(C) - V(G2)) / {VBIG+10U}) : V(32)
*
B14 23 0 V = V(22) - {SIGMA2} > 1P ? V(12) * (1-{VCCR} * (V(22) - {SIGMA2})^{SFVC}) : V(12)
* When the virtual cathode is present, this factor describes the
* decrease in cathode current (see Terman p. 192).
*
B15 G1 C I = V(8) * V(23)
R15 G1 C 100MEG
B16 G2 C I = (1 - V(8)) * V(22) * V(23)
R16 G2 C 100MEG
B17 A C I = (1 - V(8)) * (1 - V(22)) * V(23)
R17 A C 100MEG
*
.ENDS
*******************
*SRC=HEATER;HEAT1;Tubes;Generic;Heater model
*SYM=HEAT1
.SUBCKT HEAT1  F  F' ISAT {INOM=??? VNOM=??? LAMBDA=??? RCOOL=??? TCTE=??? TNOM=??? INIT=??? W=??? ISAT=???}
* 
* COPYRIGHT EXCEM, 1993
*
* This model for the heater gives a voltage ISAT
* that is an analog for the saturation current of the cathode.
*
*
* THE HEATER'S 9 PARAMETERS ARE:
*
*     INOM    the nominal heater current, at nominal voltage.
*     VNOM    the nominal heater voltage (causing nominal temperature)
*     LAMBDA  temperature coefficient of the heater resistance.
*             (normalized to the nominal temperature);
*     RCOOL   resistance of the cold heater.
*     TCTE    the time constant for the heater temperature.
*     TNOM    the nominal heater temperature in K.
*     INIT    initial heater temperature in % of TNOM.
*     W       work function of the heater, in eV.
*     ISAT    the saturation current at nominal heater voltage.
*
V1 F 4 0
R1 5 4 0.01
* Above the Debye temperature, the resistivity is nearly linear
* with respect to temperature, see Ashcroft & Mermin p. 525 and p 461.
B1 5 F' V = V(7) > 0 ? I(V1) * ({VNOM / INOM - RCOOL} * (1 + {LAMBDA} * (V(7) - 1)) + {RCOOL})
+ : I(V1) * {VNOM / INOM}
* B1 delivers the power recieved by the heater
B2 6 0 V = (V(F) - V(F')) * I(V1) > 0 ? (V(F) - V(F')) * I(V1) / {VNOM * INOM} : 1
R2 6 7 1
C1 7 0 {TCTE} IC = {INIT/100}
* Only conductive dissipation is considered. Therfore, V(7) is a normalized temperature.
* B4 contains the Richardson-Duschman law, with an exponential containing
* B = W/k, the Bolzmann's constant is 0.8617e-4 eV/K
* for Tungsten (see Ashcroft & Mermin p. 364) and W = 4.5 eV. It may
* be 2.2 times lower for an oxide-coated cathode (see Terman p. 173).
* B3 delivers the saturation current.
E1 13 0 7 0 {TNOM}
B3 ISAT 0 V = V(13) > 0 ? 
+ {ISAT} * V(7)^2 * EXPL(({W/0.8417E-4} * (1 / {TNOM} - 1 / (V(13) + 1))),5) : {ISAT}
* The 1 Kelvin added to V(13) avoids convergence problems.
.ENDS
******************
*SRC=12AX7A;T12AX7A;Tubes;Simple;250V 1W Triode
*SYM=TRIODE
.SUBCKT T12AX7A 1    3     4    
*               Grid Plate Cathode       
* One Half - High Mu Twin Triode, Similar to 12AX7-A
G1 6 4 POLY(2) 1 4 3 4  
+ 0 1.1041M 11.041U 79.300U 1.5860U 7.9300N     
Q1 3 4 6 NPN    
.MODEL NPN NPN  
D1 6 4 DIODE    
.MODEL DIODE D  
CGP 1 3 1.7000P 
CIN 1 4 1.6000P 
COUT 3 4 460.00F
R2 3 4 100MEG   
.ENDS   
**********

